US07122550B2
4-{6-[(2-Furylmethyl)amino]pyrazin-2-yl}-2-methoxyphenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-(2-furylmethyl)pyrazin-2-amine and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol furnished the product (92%).

reactant | 6-chloro-N-(2-furylmethyl)pyrazin-2-amine | ClC1=CN=CC(=N1)NCC=1OC=CC1 | C9H8ClN3O
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 4-{6-[(2-Furylmethyl)amino]pyrazin-2-yl}-2-methoxyphenol | 92% | O1C(=CC=C1)CNC1=CN=CC(=N1)C1=CC(=C(C=C1)O)OC | C16H15N3O3
